US08859493B2
N-{2-[2-(2-tert-butoxycarbonylamino-ethoxy)-ethoxy]-ethyl}-succinamic acid.
Preparation from 1-(t-butyloxycarbonylamino)-3,6-dioxa-8-octanamine) (5 g, 20.16 mmol) and succinic anhydride (2.218 g, 22.18 mmol) gave a thick yellow oil which crystallised on standing (6.5 g, yield 98%). LCMS (Method 6): Rt 2.99 min; m/z (M+1) 349; Calcd.: 349.

reactant | 1-(t-butyloxycarbonylamino)-3,6-dioxa-8-octanamine | C(C)(C)(C)OC(=O)NCCOCCOCCN | C11H24N2O4
reactant | succinic anhydride | 22.18 mmol, 2.218 g | C1(CCC(=O)O1)=O | C4H4O3
product | N-{2-[2-(2-tert-butoxycarbonylamino-ethoxy)-ethoxy]-ethyl}-succinamic acid | yield 98% | C(C)(C)(C)OC(=O)NCCOCCOCCNC(CCC(=O)O)=O | C15H28N2O7
